US04013690
5g of 2-(4-cyclohexyl-2-hydroxyphenyl)- propionic acid are heated at reflux in a water separator for 2 hours in the presence of 50 mg of p-toluenesulphonic acid in 200 cc of toluene. The solution is concentrated by evaporation and the residue is chromatographed on 500 g of silica gel. Elution with methylene chloride yields pure 6-cyclohexyl-2,3-dihydro-3-methylbenzofuran-2-one having an M.P. of 87-89° after crystallization from petroleum ether.

reactant | 2-(4-cyclohexyl-2-hydroxyphenyl)- propionic acid | C1(CCCCC1)C1=CC(=C(C=C1)C(C(=O)O)C)O | C15H20O3
reactant | water | O | H2O
reactant | p-toluenesulphonic acid | 50 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 200 cc | C1(=CC=CC=C1)C | C7H8
product | 6-cyclohexyl-2,3-dihydro-3-methylbenzofuran-2-one | C1(CCCCC1)C1=CC2=C(C(C(O2)=O)C)C=C1 | C15H18O2
